US04472305
Condensation of BocPro-Phe-PheNHNH2 (1.31 g.) and HDAla-Leu-MetNH2 (0.85 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-Phe-Phe-DAla-Leu-MetNH2 in 66% yield. De-t-butoxycarbonylation of BocPro-Phe-Phe-DAla-Leu-MetNH2 (1.10 g.) using hydrogen chloride in acetic acid gave HPro-Phe-Phe-DAla-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt sesquihydrate in 66% yield.

reactant | BocPro-Phe-PheNHNH2 | 1.31 g | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NN)CCC1)C(=O)OC(C)(C)C | C28H37N5O5
reactant | HDAla-Leu-MetNH2 | 0.85 g | N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C14H28N4O3S
product | BocPro-Phe-Phe-DAla-Leu-MetNH2 | 66% yield | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C42H61N7O8S
